US07855215B2
Step 20.2: 5-(6-Amino-pyrimidin-4-yloxy)-1H-indole
480 mg (1.9 mMol) 5-(6-azido-pyrimidin-4-yloxy)-1H-indole in 25 ml THF are hydrogenated in presence of 75 mg Pd/C 10%. Filtration, concentration of the filtrate and column chromatography (SiO2; EtOAc/hexane 3:1→EtOAc) gives the title compound: MS: [M+1]+=227; TLC(EtOAc): Rf=0.11

reactant | 5-(6-azido-pyrimidin-4-yloxy)-1H-indole | 1.9 mMol, 480 mg | N(=[N+]=[N-])C1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C12H8N6O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | 5-(6-Amino-pyrimidin-4-yloxy)-1H-indole | NC1=CC(=NC=N1)OC=1C=C2C=CNC2=CC1 | C12H10N4O
